US07678795B2
(1S,8R)-1,11,11-Trimethyl-5-(2-trifluoromethoxy-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light yellow solid. MS (EI): 348.0 (M+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-Oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-Oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C1=C(C=CC=C1)OC(F)(F)F)=O | C11H12F3O5P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-1,11,11-Trimethyl-5-(2-trifluoromethoxy-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C[C@]12C3=NN=C(C=C3[C@H](CC1)C2(C)C)C2=C(C=CC=C2)OC(F)(F)F | C19H19F3N2O
